US06528525B1
2-(3,4-Difluorophenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid (exemplification No. 138-152 compound)
In a similar manner to that described in Example 2, ethyl 2-(3,4-difluorophenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate (281 mg), which is the product of Example 140, was reacted with aqueous sodium hydroxide solution (1N, 1.02 ml) and the reaction mixture was treated to give the title compound (246 mg) as a white powder.

reactant | ethyl 2-(3,4-difluorophenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate | 281 mg | FC=1C=C(OC(C(=O)OCC)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C=CC1F | C31H28F2N2O5
reactant | sodium hydroxide | 1N, 1.02 ml | [OH-].[Na+]
product | 2-(3,4-Difluorophenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid | 246 mg | FC=1C=C(OC(C(=O)O)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C=CC1F | C29H24F2N2O5
